US04678802
1-(N-Benzoylcarbamoyl)-5-acetyloxindole
In a similar manner 1-(N-acetylcarbamoyl)-5-acetyloxindole, 1-(N-s-butyrylcarbamoyl)-5-acetyloxindole, 1-(N-pivaloylcarbamoyl)-5-acetyloxindole and 1-(N-propionylcarbamoyl)-5-acetyloxindole are prepared.

reactant | 1-(N-acetylcarbamoyl)-5-acetyloxindole | C(C)(=O)NC(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C13H12N2O4
reactant | 1-(N-pivaloylcarbamoyl)-5-acetyloxindole | C(C(C)(C)C)(=O)NC(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C16H18N2O4
reactant | 1-(N-propionylcarbamoyl)-5-acetyloxindole | C(CC)(=O)NC(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C14H14N2O4
product | 1-(N-Benzoylcarbamoyl)-5-acetyloxindole | C(C1=CC=CC=C1)(=O)NC(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C18H14N2O4
